US06635657B1
A. 1-(tert-Butoxycarbonyl)piperidine-4-ethanol
A solution of 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde (14.9 g, 69.8 mmol) in THF at −78° C. was treated with methylmagnesium bromide (25.6 mL, 3.0 M in THF, 76.8 mmol). After 16 h, the mixture was treated with additional methylmagnesium bromide (15.0 mL, 3.0 M in THF). After 1 h, the mixture was treated with saturated aqueous ammonium chloride and partitioned between EtOAc and water. The aqueous phase was washed with EtOAc, the organic extracts were combined and washed with brine, dried (MgSO4), and concentrated. The residue was purified by column chromatography (SiO2: 30 to 40% EtOAc:hexanes) affording 5.0 g (31%) of the title compound.

reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde | 69.8 mmol, 14.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | methylmagnesium bromide | 76.8 mmol, 3.0 M, 25.6 mL | C[Mg]Br
reactant | methylmagnesium bromide | 3.0 M, 15.0 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | C1CCOC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)piperidine-4-ethanol | 5.0 g, 31% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
